US06717016B2
(c) Synthesis of 4-(2-fluorophenyl)-3-hydroxy-2-methylbutane-1,3-diol
Under a nitrogen atmosphere, 2.84 g (74.9 mmol) of lithium aluminum hydride was added to 30 ml of tetrahydrofuran (hereinafter, referred to as THF). A solution of 18.0 g of ethyl 4-(2-fluorophenyl)-3-hydroxy-2-methylbutanoate in 180 ml of THF was added thereto. After stirring for 1.5 hr at room temperature, 5 ml of water and 5 ml of 1N-NaOH aqueous solution were added thereto successively to quench the reaction. 100 ml of Et2O was added to the quenched reaction mixture, after stirring a while, the obtained suspension was filtered. The filtrate was distilled off and the residue was purified by silica gel column chromatography to obtain 14.5 g of the title compound as a colorless oil. (Yield: 99%)

reactant | lithium aluminum hydride | 74.9 mmol, 2.84 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ethyl 4-(2-fluorophenyl)-3-hydroxy-2-methylbutanoate | 18.0 g | FC1=C(C=CC=C1)CC(C(C(=O)OCC)C)O | C13H17FO3
reactant | water | 5 ml | O | H2O
reactant | NaOH | [OH-].[Na+]
solvent | THF | 180 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | Et2O | 100 ml | CCOCC | C4H10O
product | 4-(2-fluorophenyl)-3-hydroxy-2-methylbutane-1,3-diol | 14.5 g, Yield: 99% | FC1=C(C=CC=C1)CC(C(CO)C)(O)O | C11H15FO3
